US06720338B2
2-hydroxyquinolin-8-yl trifluoromethanesulfonate
A mixture of 2,8-quinolinediol (4.23 g, 26.3 mmol), 2-(N,N-bis(trifluoromethylsulfonyl)amino)pyridine (9.4 g, 26.3 mmol) and diisopropylethylamine (14 mL, 80.5 mmol) in dichloromethane (50 mL) at room temperature was stirred for 18 hours, diluted with ethyl acetate (200 mL), washed with water (2×50 mL) and brine (50 mL), dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 1:4 ethyl acetate/hexanes to provide the desired product. MS (APCI) m/e 292 (M−H)−.

reactant | 2,8-quinolinediol | 26.3 mmol, 4.23 g | N1=C(C=CC2=CC=CC(=C12)O)O | C9H7NO2
reactant | 2-(N,N-bis(trifluoromethylsulfonyl)amino)pyridine | 26.3 mmol, 9.4 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
reactant | diisopropylethylamine | 80.5 mmol, 14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-hydroxyquinolin-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=CC=C2C=CC(=NC12)O)(F)F | C10H6F3NO4S
